US05883090
3.3 g of caesium carbonate are added to a solution of 1.55 g of 2,3-dihydro-4,6-dimethylpyridazin-3-one (prepared according to F. H. McMillan et al., J. Am.Chem. Soc. 78, 407 (1956)) and 4.52 g of 2-(1,3-benzodioxol-5-yl)-2-bromo-N-(4-isopropylphenylsulfonyl)acetamide in 100 ml of DMF. The mixture is stirred at room temperature for 2 hours and worked up in the customary manner and 2-(1,3-benzodioxol-5-yl)-2-(2,3-dihydro-4,6-dimethylpyridazin-3-on-2-yl)N-(4-isopropylphenylsulfonyl)acetamide is obtained, m.p. 105°.

reactant | caesium carbonate | 3.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,3-dihydro-4,6-dimethylpyridazin-3-one | 1.55 g | CC=1C(NN=C(C1)C)=O | C6H8N2O
reactant | 2-(1,3-benzodioxol-5-yl)-2-bromo-N-(4-isopropylphenylsulfonyl)acetamide | 4.52 g | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)Br | C18H18BrNO5S
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(1,3-benzodioxol-5-yl)-2-(2,3-dihydro-4,6-dimethylpyridazin-3-on-2-yl)N-(4-isopropylphenylsulfonyl)acetamide | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)N2N=C(C=C(C2=O)C)C | C24H25N3O6S
